US03932416
4-Chloro-N(1H-tetrazol-5-yl)quinaldamide
In a similar manner 6-butyl-4-chloro-N-(1H-tetrazol-5-yl)quinaldamide, m.p. 275° was prepared from 6-butyl-4-chloroquinaldoyl chloride and 5 -aminotetrazole.

reactant | 6-butyl-4-chloro-N-(1H-tetrazol-5-yl)quinaldamide | C(CCC)C=1C=C2C(=CC(C(=O)NC3=NN=NN3)=NC2=CC1)Cl | C15H15ClN6O
reactant | 6-butyl-4-chloroquinaldoyl chloride | C(CCC)C=1C=C2C(=CC(C(=O)Cl)=NC2=CC1)Cl | C14H13Cl2NO
reactant | 5 -aminotetrazole | NC1=NN=NN1 | CH3N5
product | 4-Chloro-N(1H-tetrazol-5-yl)quinaldamide | ClC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | C11H7ClN6O
